US05969140
A mixture of 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene (2.0 g), (2-carboxyphenyl)-(3-pyridyl) ketone (1.35 g) and ethylene glycol (5 ml) is refluxed for two hours. The mixture under refluxing is cooled to room temperature, and then thereto are added methylene chloride and water. The methylene chloride layer is separated, washed, dried, concentrated under reduced pressure to remove the solvent, and crystallized from chloroform. The precipitated crystals are dissolved in a mixture of chloroform and methanol, and thereto is added a 4 M solution of hydrogen chloride in dioxane (0.67 ml) to give 1-[2-{4-(3-pyridyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene hydrochloride (1.43 g), which is listed in Table 10.

reactant | 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene | 2.0 g | N(N)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OC)CO)CO | C20H23N3O4
reactant | (2-carboxyphenyl)-(3-pyridyl) ketone | 1.35 g | C(=O)(O)C1=C(C=CC=C1)C(=O)C=1C=NC=CC1 | C13H9NO3
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-[2-{4-(3-pyridyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-2,3-bis(hydroxymethyl)-6-methoxy-7-ethoxynaphthalene hydrochloride | 1.43 g | Cl.N1=CC(=CC=C1)C1=NN(C(C2=CC=CC=C12)=O)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OC)CO)CO | InChI=1S/C33H28N4O5.ClH/c1-3-42-29-16-26-22(14-28(29)41-2)13-23(18-38)27(19-39)31(26)20-10-12-35-30(15-20)37-33(40)25-9-5-4-8-24(25)32(36-37)21-7-6-11-34-17-21;/h4-17,38-39H,3,18-19H2,1-2H3;1H
